US09422331B2
A solution of SOCl2 (24.2 ml, 332 mmol) in dry MeCN (240 ml) under nitrogen was cooled to −5° C., then (2S,3R)-benzyl 2-(tert-butoxycarbonylamino)-3-hydroxybutanoate (50 g, 162 mmol) in dry MeCN (120 ml) was added dropwise over 10 min, followed by dropwise addition of pyridine (65.4 ml, 808 mmol) to maintain the internal temp <0° C. After stirring for 10 min, cooling was removed and the reaction mixture was stirred for 3 h, then concentrated, mixed with EtOAc (1130 ml) and H2O (320 ml), and stirred at RT for 20 min. The aqueous layer was extracted with EtOAc and the combined organic layers were washed with brine 3 times, then concentrated. The residue was dissolved in CH3CN (320 ml), and, at 5° C., ruthenium(III) chloride (77.1 mg, 372 μmol) was added, followed by sodium periodate (68.8 g, 321 mmol). After stirring for 10 min, H2O (320 ml) was added over about 1 min. The mixture was stirred at RT for 1.5 h, then filtered to remove solid salts, treated with brine (320 ml), and extracted with EtOAc twice. The organic layer was washed with brine, dried over Na2SO4, filtered through a bed of 3 layers of celite+silica gel+Na2SO4, and concentrated to afford 4-benzyl 3-tert-butyl(4S,5R)-5-methyl-1,2,3-oxathiazolidine-3,4-dicarboxylate 2,2-dioxide (50.1 g, 84%) as a slightly brownish oil.

reactant | SOCl2 | 332 mmol, 24.2 ml | O=S(Cl)Cl | Cl2OS
reactant | (2S,3R)-benzyl 2-(tert-butoxycarbonylamino)-3-hydroxybutanoate | 162 mmol, 50 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)[C@@H](C)O | C16H23NO5
reactant | pyridine | 808 mmol, 65.4 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium periodate | 321 mmol, 68.8 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeCN | 240 ml | CC#N | C2H3N
solvent | MeCN | 120 ml | CC#N | C2H3N
catalyst | ruthenium(III) chloride | 372 μmol, 77.1 mg | [Ru](Cl)(Cl)Cl
solvent | H2O | 320 ml | O | H2O
product | 4-benzyl 3-tert-butyl(4S,5R)-5-methyl-1,2,3-oxathiazolidine-3,4-dicarboxylate 2,2-dioxide | 50.1 g, 84% | C[C@@H]1[C@H](N(S(O1)(=O)=O)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C16H21NO7S
